US08420640B2
A solution of (4-(2-amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone (0.4 g, 1.2 mmol) and 30 ml formaldehyde ether solution extracted from 30 ml 37% water formaldehyde solution in 20 ml acetic acid was stirred for 10 min, followed by the addition of sodium cyanoborohydride (0.13 g, 2.5 mmol). The mixture was stirred for 3 hours under argon atmosphere. The reaction was quenched with water and extracted with ethyl acetate (3×15 ml), followed by drying over anhydrous sodium sulfate. (4-(2-(Dimethylamino)-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone (0.3 g, 69%) was obtained by flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.88 (s, 6H), 3.30 (s, br, 4H), 3.68 (s, br, 2H), 4.00 (s, br, 2H), 6.90 (d, J=8.8 Hz, 1H), 7.47-7.50 (m, 5H), 7.82 (d, J=2.6 Hz, 1H), 7.87 (dd, J=8.8, 2.6 Hz, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 41.8, 49.2, 114.5, 118.1, 118.6, 127.6, 129.1, 130.4, 136.0, 143.4, 145.6, 149.5, 170.9.

reactant | (4-(2-amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone | 1.2 mmol, 0.4 g | NC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)C1=CC=CC=C1 | C17H18N4O3
reactant | formaldehyde ether | 30 ml | C=O.CCOCC
reactant | water formaldehyde | 30 ml | C=O.O
reactant | sodium cyanoborohydride | 2.5 mmol, 0.13 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (4-(2-(Dimethylamino)-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone | 0.3 g, 69% | CN(C1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)C1=CC=CC=C1)C | C19H22N4O3
